*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :4532M(1812)/U2J(-55to125[deg])/1.80e-02[uF]/630[V]
* Murata P/N :GCM43D7U2J183JX01
* Property : C = 1.80e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM43D7U2J183JX01 Port1 Port2
C01 Port1 N01 1.77e-08
R01 Port1 N01 5.56e+10
L02 N01 N02 1.05e-11
R03 N02 N03 4.45e-03
L04 N03 N04 1.66e-10
R04 N03 N04 3.46e-01
L05 N04 N05 3.30e-11
R05 N04 N05 1.96e-03
C06 N05 N06 2.73e-08
L06 N05 N06 1.43e-10
R06 N05 N06 7.67e-01
C07 N06 N07 1.98e-08
L07 N06 N07 7.32e-11
R07 N06 N07 6.30e-01
C08 N07 N08 4.59e-08
L08 N07 N08 1.45e-11
R08 N07 N08 1.47e-01
C09 N08 N09 2.40e-08
L09 N08 N09 1.65e-11
R09 N08 N09 1.57e-01
C10 N09 Port2 1.86e-12
L10 N09 Port2 4.75e-10
R10 N09 Port2 2.04e+02
.ENDS GCM43D7U2J183JX01
